US04477388
A solution of 30 g of 4-methyl-4-trimethylsilyloxy-1-decyne, 150 mg of azobisisobutyronitrile, and 35 ml of tri-n-butyltin hydride was magnetically stirred under an argon atmosphere at 130°-135° C. for about 2 hours (exothermic), then cooled to ambient temperature. The product was distilled to provide 60 g of (E)-4-methyl-4-trimethylsilyloxy-1-tri-n-butylstannyl-1-decene (b.p. 156°-158° at 0.03 mm).

reactant | 4-methyl-4-trimethylsilyloxy-1-decyne | 30 g | CC(CC#C)(CCCCCC)O[Si](C)(C)C | C14H28OSi
reactant | azobisisobutyronitrile | 150 mg | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
reactant | tri-n-butyltin hydride | 35 ml | C(CCC)[SnH](CCCC)CCCC
product | (E)-4-methyl-4-trimethylsilyloxy-1-tri-n-butylstannyl-1-decene | 60 g | CC(C/C=C/[Sn](CCCC)(CCCC)CCCC)(CCCCCC)O[Si](C)(C)C | InChI=1S/C14H29OSi.3C4H9.Sn/c1-7-9-10-11-13-14(3,12-8-2)15-16(4,5)6;3*1-3-4-2;/h2,8H,7,9-13H2,1,3-6H3;3*1,3-4H2,2H3;
